US06800660B2
Bromobenzene (1.6 g, 10 mmol) was added into 25 ml anhydrous THF solution containing magnesium powder (0.3 g, 12.5 mmol), and refluxed for 2 hr. After it was cooled, the clear reaction solution was added into carbon disulfide (1 ml, 16.8 mmol) at 0° C., and stirred for 30 min at rt. The resulting mixture was then added into methylhydrazine (1.6 ml, 30 mmol) at 0° C., and stirred for another 2 hours. To this solution was added water (15 ml) and extracted with EtOAc (30 ml×3). The organic solution was concentrated to minimum volume, and subjected to silica gel column chromatography (eluant: 1:3-1:1 ethyl acetate: hexanes) to give thiobenzoic acid N-methyl hydrazide (0.72 g, total yield: 48%). 1H NMR (CDCl3) δ 3.3 (s, 3H), 6.0 (s, 2H), 7.3-7.4 (m, 5H); ESMS calcd (C8H10N2S): 166.1; found: 167.1 (M+H)+.

reactant | Bromobenzene | 10 mmol, 1.6 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 12.5 mmol, 0.3 g | [Mg] | Mg
reactant | carbon disulfide | 16.8 mmol, 1 ml | C(=S)=S | CS2
reactant | methylhydrazine | 30 mmol, 1.6 ml | CNN | CH6N2
solvent | water | 15 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | thiobenzoic acid N-methyl hydrazide | 0.72 g, yield: 48% | CN(N)C(C1=CC=CC=C1)=S | C8H10N2S
